US08049015B2
Synthesis of (5-{2-[(N-Acetyl-N-benzyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid (Compound 18)
N-Benzyl-N-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-acetamide and (5-bromo-pyridin-3-yl)-acetic acid ethyl ester were reacted as described in Example 17, Step 4 and the product was hydrolyzed to the acid as described in Example 17, Step 5.

reactant | N-Benzyl-N-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-acetamide | C(C1=CC=CC=C1)N(C(C)=O)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C23H27BF3NO3
reactant | (5-bromo-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)Br)=O | C9H10BrNO2
product | (5-{2-[(N-Acetyl-N-benzyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid | C(C)(=O)N(CC1=CC=CC=C1)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=NC1)CC(=O)O | C24H21F3N2O3
